US06384028B1
A solution of 1-tert-butyldimethylsilyl-4(S)-(3-methyl-5-isoxazolyl)-2-azetidinone (0.9 g) in EtOH (10 ml) was added HCl (16.9 mmol)/EtOH (4.2 ml) at room temperature at 0° C. The reaction mixture was stirred at room temperature for 2 hours, then evaporated in vacuo. The residue was recrystallized from diethyl ether to give 3(S)-(3-methyl-5-isoxazolyl)-β-alanine ethyl ester hydrochloride (0.67 g) as a white solid.

reactant | 1-tert-butyldimethylsilyl-4(S)-(3-methyl-5-isoxazolyl)-2-azetidinone | 0.9 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C1=CC(=NO1)C)=O | C13H22N2O2Si
reactant | HCl | 16.9 mmol | Cl | ClH
reactant | EtOH | 10 ml | CCO | C2H6O
reactant | EtOH | 4.2 ml | CCO | C2H6O
product | 3(S)-(3-methyl-5-isoxazolyl)-β-alanine ethyl ester hydrochloride | 0.67 g | Cl.C(C)OC(C[C@H](N)C1=CC(=NO1)C)=O | InChI=1S/C9H14N2O3.ClH/c1-3-13-9(12)5-7(10)8-4-6(2)11-14-8;/h4,7H,3,5,10H2,1-2H3;1H/t7-;/m0./s1
